US04499094
Operations are carried out as for Example 7, starting from 3 g of 1-(2-thienyl) isoquinoline 3-carboxylic acid, 1.73 g of triethylamine, 1.86 g of ethyl chloroformate and 1.69 g of N-methyl 2-butanamine in 150 ml of chloroform. 2.5 g of N-methyl N-(1-methyl propyl) 1-(2-thienyl) isoquinoline 3-carboxamide, melting at 146° C. are obtained.

reactant | 1-(2-thienyl) isoquinoline 3-carboxylic acid | 3 g | S1C(=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C14H9NO2S
reactant | triethylamine | 1.73 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.86 g | ClC(=O)OCC | C3H5ClO2
reactant | N-methyl 2-butanamine | 1.69 g | CNC(C)CC | C5H13N
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-methyl N-(1-methyl propyl) 1-(2-thienyl) isoquinoline 3-carboxamide | 2.5 g | CN(C(=O)C=1N=C(C2=CC=CC=C2C1)C=1SC=CC1)C(CC)C | C19H20N2OS
